US07662841B2
Diethylaluminum chloride (0.9 M hexane solution; 1.1 ml, 1.07 mmol) was added to an ice cooled solution of N,O-dimethylhydroxylamine hydrochloride (104 mg, 1.07 mmol) in dichloromethane (4 ml), and, while gradually raising the temperature, the mixture was stirred for one hr. A solution of methyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate (56 mg, 0.21 mmol) in dichloromethane (6 ml) was added thereto, and the mixture was stirred at room temperature for 21 hr. A phosphate buffer solution (5 ml) was added to the reaction solution, and the mixture was stirred at room temperature for 10 min and was then filtered through Celite. The filtrate was washed with saturated brine and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:methanol=60:1→10:1) to give N-methoxy-N-methyl-2-bromoimidazo[5,1-b]thiazole-7-carboxamide (54 mg, 88%) as a white solid.

reactant | Diethylaluminum chloride | 1.07 mmol, 0.9 M, 1.1 ml | [Cl-].C(C)[Al+]CC
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.07 mmol, 104 mg | Cl.CNOC
reactant | methyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate | 0.21 mmol, 56 mg | BrC1=CN2C(S1)=C(N=C2)C(=O)OC | C7H5BrN2O2S
reactant | phosphate | 5 ml | P(=O)([O-])([O-])[O-]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-2-bromoimidazo[5,1-b]thiazole-7-carboxamide | 54 mg, 88% | CON(C(=O)C=1N=CN2C1SC(=C2)Br)C | C8H8BrN3O2S
